US07205291B2
To a solution of 4-nitrobenzyl (5R,6S)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-3-{3-[(trimethylsilyl)oxy]phenyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (500 mg) in THF (8.6 ml) was added at −78° C. acetic acid (51 mg). Thereto was dropped 1M tetrabutylammonium fluoride/THF solution (0.86 ml), and the mixture was stirred at the same temperature for 15 minutes. The reaction mixture was poured into a mixture of a cold aqueous sodium hydrogencarbonate (72 mg) and ethyl acetate. The mixture was extracted and separated by a separating funnel. The organic layer was washed with a cold saturated aqueous sodium chloride solution (three times) and cold water in the order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 4-nitrobenzyl (5R,6S)-3-(3-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate. This product was used in the next step without further purification.

reactant | 4-nitrobenzyl (5R,6S)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-3-{3-[(trimethylsilyl)oxy]phenyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 500 mg | O=C1[C@@H]([C@H]2CC(=C(N12)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=CC=C1)O[Si](C)(C)C)[C@@H](C)O[Si](C)(C)C | C28H36N2O7Si2
reactant | acetic acid | 51 mg | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride THF | 1M, 0.86 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | sodium hydrogencarbonate | 72 mg | C(O)([O-])=O.[Na+]
solvent | THF | 8.6 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl (5R,6S)-3-(3-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | OC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N2O7Si
